US07608631B2
2 g of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile, 1.2 g of ammonium chloride and 1.5 g of sodium azide are stirred for 48 hours at 100° C. in 50 ml of dimethylformamide. The reaction mixture is poured onto cold dilute hydrochloric acid and extracted with ethyl acetate. Concentration of the organic phase and crystallisation from diethyl ether/hexane yield 5-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2H-tetrazole having a melting point of 159-161° C.

reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-benzonitrile | 2 g | ClC1=C(OCCCOC2=CC=C(C#N)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H15Cl4NO3
reactant | ammonium chloride | 1.2 g | [Cl-].[NH4+]
reactant | sodium azide | 1.5 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-2H-tetrazole | ClC1=C(OCCCOC2=CC=C(C=C2)C=2N=NNN2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H16Cl4N4O3
